US09388173B2
Step 3: tert-butyl 3-(6-bromo-1H-benzo[d]imidazol-1-yl)pyrrolidine-1-carboxylate
To a solution of tert-butyl 3-((2-amino-5-bromophenyl)amino)pyrrolidine-1-carboxylate (320 mg, 0.938 mmol), HC(OCH3)3 (5 mL) in DMF (10 mL) was added concentrated HCl (two drops). The mixture was then stirred at room temperature for 16 h before concentration. The residue was then diluted with DCM (50 mL) and washed with saturated NaHCO3 solution (25 mL), water (50 mL), dried over anhydrous Na2SO4 and filtered. The filtrate was concentrated to give the crude desired product (250 mg, Yield 80%) which was used on the next step without further purification. LCMS (m/z): 366.1 (M+1).

reactant | tert-butyl 3-((2-amino-5-bromophenyl)amino)pyrrolidine-1-carboxylate | 0.938 mmol, 320 mg | NC1=C(C=C(C=C1)Br)NC1CN(CC1)C(=O)OC(C)(C)C | C15H22BrN3O2
reactant | HC(OCH3)3 | 5 mL | C(OC)(OC)OC | C4H10O3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | HCl | two drops | Cl | ClH
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-(6-bromo-1H-benzo[d]imidazol-1-yl)pyrrolidine-1-carboxylate | 250 mg, Yield 80% | BrC=1C=CC2=C(N(C=N2)C2CN(CC2)C(=O)OC(C)(C)C)C1 | C16H20BrN3O2
